US04243682
Ethyl 3-(4-fluoro-6-methoxy-2-naphthyl)-but-2-enoate (12 g) was dissolved in ethyl acetate (100 ml) and 5% palladium on charcoal (1.5 g) was added. The mixture was shaken under a hydrogen atmosphere until uptake of hydrogen ceased (ca. 1 hour). The catalyst was removed by filtration through a celite bed and the solvent was removed under reduced pressure to give ethyl 3-(4-fluoro-6-methoxy-2-naphthyl)-butanoate as an oil (11.9 g., 98%).

reactant | Ethyl 3-(4-fluoro-6-methoxy-2-naphthyl)-but-2-enoate | 12 g | FC1=CC(=CC2=CC=C(C=C12)OC)C(=CC(=O)OCC)C | C17H17FO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
product | ethyl 3-(4-fluoro-6-methoxy-2-naphthyl)-butanoate | FC1=CC(=CC2=CC=C(C=C12)OC)C(CC(=O)OCC)C | C17H19FO3
